US04352817
29.1 g (0.14 mol) of 6-chloroisatoic acid anhydride are stirred with 13.12 g (0.14 mol) of sarcosine in 150 ml of dimethyl sulphoxide at 110° for 1 hour. The solution obtained is concentrated and the residue is recrystallized from ethanol. There is obtained 6-chloro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 237°-238°.

reactant | 6-chloroisatoic acid anhydride | 0.14 mol, 29.1 g | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | sarcosine | 0.14 mol, 13.12 g | N(C)CC(=O)O | C3H7NO2
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | 6-chloro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | ClC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C10H9ClN2O2
